US07067537B2
Production of N-ethyl-3-[2-(4-methylpyridin-3-yl)-1,3-thiazol-4-yl]benzamide
By the reaction in the same manner as in Example 60 using 3-[2-(4-methylpyridin-3-yl)-1,3-thiazol-4-yl]benzoic acid (259 mg), thionyl chloride (0.09 ml) and aqueous ethylamine solution (70%, 5 ml), the title compound (215 mg) was obtained as pale-brown powder crystals.

reactant | 3-[2-(4-methylpyridin-3-yl)-1,3-thiazol-4-yl]benzoic acid | 259 mg | CC1=C(C=NC=C1)C=1SC=C(N1)C=1C=C(C(=O)O)C=CC1 | C16H12N2O2S
reactant | thionyl chloride | 0.09 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethylamine | 5 ml | C(C)N | C2H7N
product | N-ethyl-3-[2-(4-methylpyridin-3-yl)-1,3-thiazol-4-yl]benzamide | 215 mg | C(C)NC(C1=CC(=CC=C1)C=1N=C(SC1)C=1C=NC=CC1C)=O | C18H17N3OS
